2162-12-03 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient with frank hemoptysis yesterday that stopped about 4PM
   - AFB ordered x 3, HIV sent
   - Given Cough suppressant (codeine), azithro, and ceftriaxone
   - Plan for Bronchoscopy in AM.
   - SW consult as patient with finacial stressors and boyfriend with
   recent family deaths.
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2162-12-2**] 04:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-12-3**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 72 (65 - 104) bpm
   BP: 126/90(98) {109/58(71) - 145/92(104)} mmHg
   RR: 16 (11 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    515 mL
                                                                     74 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                    115 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    320 mL
                                                                    600 mL
   Urine:
                                                                    320 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    195 mL
                                                                   -526 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   Gen: NAD, Aox3
   CV: rrr no m/r/g
   Pulm: CTAB, no W/R/R appreciated
   Abd: Soft, NT/ND, BS+
   Extr: no edema, pulses 2+ symmetric
   Labs / Radiology
   3.5 mEq/L
   34.0 %
        [image002.jpg]
                            [**2162-12-2**]  10:46 AM
                            [**2162-12-2**]  09:13 PM
   Hct
   34.9
   34.0
   Assessment and Plan
 .H/O ASPERGILLUS INFECTION, NON- OR SEMI-INVASIVE
 HEMOPTYSIS
   This is a 47 yo female with hx of treated aspergillosis [**2158**] who
   presents now with hemoptysis.
   .
   # Hemoptysis: Source almost certainly pulmonary based on CT findings.
   Pt w/ hx of aspergillosis with unknown risk factors. Cavitary lesion on
   CT scan may be consistent with recurrence of aspergillosis, also w/
   bronchiectasis. DDX of cavitary lung lesion also includes: TB, other
   fungal infxn, malignancy, autoimmune (Wegener's), or bacterial
   infection. She denies systemic symptoms including fever, weight loss
   and has had no clear TB exposures.  She has no renal dysfunction and no
   other manifestations of vasculitis on exam and by history so seems
   unlikely pulmonary-renal syndrome.  Given her h/o bronchiectasis on
   imaging and frequent pulm infections throughout life, late presentation
   of CF possible, however she denies GI sx, infertility.  Does have 15
   packyear history so malignancy must be considered.  Bacterial infection
   less likely given lack of fever or leukocytosis.  Cell differential
   largely unremarkable (only very mild neutrophilia and no e/o peripheral
   eosinophilia). Her prior work-up was all at outside hospitals. HIV
   negative per her report when checked 4 years ago and she denies risk
   factors since.
   - Sputum cxs, including AFB; should be adequate for aspergillosis as
   well
   - check beta-glucan, galactomannan
   - Bronchoscopy to eval for endobronchial lesion
   - Serial HCT - q6hr (though appears actual blood loss is minimal and
   can likely back off checks if stable)
   - Obtain OSH records, consider repeating HIV test
   - PPD placed in ED, read in 48-72 hrs
   - TB precautions pending sputum for AFB
   - will start azithromycin and ceftriaxone given bronchiectasis and risk
   of bacterial infection however low suspicion that this is driving her
   hemoptysis
   .
   # Coagulopathy:  Very mildly elevated INR to 1.3.  No history of easy
   bleeding/bruising.  No known h/o liver dz and no LFTs in our system.  ?
   nutritional.  Seems unlikely to be contributing significantly to above
   bleeding.
   - continue to monitor coags in settting of hemoptysis
   - checking LFTs
   - will give oral vitamin K
   .
   # GERD:  Continue PPI (pantoprazole while in house, prevacid as
   outpatient).
   .
   # FEN: NPO for procedure, replete lytes prn
   .
   # Access: PIV
   .
   # PPx: [**Last Name (LF) 2220**], [**First Name3 (LF) 124**] continue outpatient PPI.
   .
   # Code:  FULL.
   .
   # Dispo: Likely to floor after bronch pending stability in respiratory
   status and hct.
   .
   # Comm: Boyfriend [**Name (NI) **] [**Name (NI) 2221**] [**Telephone/Fax (1) 2222**], [**Telephone/Fax (1) 2223**]; Dr. [**Last Name (STitle) 2219**]
   [**Telephone/Fax (1) 2224**]
   ICU Care
   Nutrition:
   Comments: NPO for bronchoscopy today
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-12-2**] 08:29 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:

2162-12-03 09:21:00 Physician Attending Progress Note
Chief Complaint: hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Minimal hemoptysis over the past 24 hours, ~[**2-3**] tblsps
   History obtained from Patient
   Allergies:
   Demerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2162-12-2**] 04:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Cough, hemoptysis
   Genitourinary: No(t) Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2162-12-3**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 89 (65 - 104) bpm
   BP: 138/89(99) {109/58(71) - 139/92(101)} mmHg
   RR: 25 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    515 mL
                                                                     80 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                    115 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                    320 mL
                                                                    600 mL
   Urine:
                                                                    320 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    195 mL
                                                                   -520 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, dry MM
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), end-inspiratory squeak
   left mid lung
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): Fully oriented, Movement: Not assessed, Tone:
   Normal
   Labs / Radiology
   13.5 g/dL
   356 K/uL
   77 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.4 mEq/L
   14 mg/dL
   105 mEq/L
   140 mEq/L
   37.1 %
   5.5 K/uL
        [image002.jpg]
                            [**2162-12-2**]  10:46 AM
                            [**2162-12-2**]  09:13 PM
                            [**2162-12-3**]  06:03 AM
   WBC
   5.5
   Hct
   34.9
   34.0
   37.1
   Plt
   356
   Cr
   0.9
   Glucose
   77
   Other labs: PT / PTT / INR:13.7/26.8/1.2, Ca++:9.0 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Microbiology: Sputum:  .25 polys, < 10 epis, multiple organisms
   consistent with OPF
   AFB: pending
   Fungal: pending
   Assessment and Plan
 HEMOPTYSIS
 H/O ATYPICAL MYCOBACTERIUM, ?ASPERGILLUS INFECTION/COLONIZATION
AMEMIA: Hct stable, actually a bit elevated.  Appears dry on exam.
   Maintenance fluids while remains NPO for anticipated bronchoscopy.
   Pulmonary consult team to evaluate for bronch given preference for TBBX
   under fluoro given ?invasive aspergillosis.
   No further hemoptysis overnight, continues on codeine, no respiratory
   distress on room air.  No coagulopathy. Remains afebrile.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-12-2**] 08:29 AM
   20 Gauge - [**2162-12-3**] 08:19 AM
   Prophylaxis:
   DVT: Boots(ambulates in room)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   Reviewed outside films with radiologist.  Had CT chest from [**2160-6-2**] to
   compare to recent scan.  The left sided bronchiectasis is chronic,
   stable except now has mucus impaction, nodular infiltrate unchanged
   from earlier film.  In further discussions with the patient it became
   evident that she had provided three sputum samples to [**Company 2278**]
   in [**Location (un) 2279**], NH on [**10-30**], and [**11-30**]. Called and had results faxed.
   Culture showing heavy growth of S. Aureusm MSSA.  Also on [**11-30**] AFB was
   negative.  Now has two negative AFBs.  Induced for third sputum today
   which is pending.  Have changed antibiotics to nafcillin.  Continue
   codeine overnight, consider stopping in next 24-48 hours.  Given that
   this is more consistent with underlying bronchietasis with superimposed
   staph infection may be able to treat with abx, follow clinically to be
   sure hemoptysis resolves and even consider bronchoscopy as an
   outpatient.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2140**] [**Last Name (NamePattern1) 2141**], MD
   on:[**2162-12-3**] 17:40 ------

2162-12-04 07:12:00 Physician Resident Progress Note
Chief Complaint: Hemoptysis
   24 Hour Events:
    OSH records and CT obtained
   - HIV Negative
   - Learned that patient provided additional sputums at [**Company 2301**]. These grew MSSA
   - Started on Naficllin
   - Nauseous overnight after recieving codeine, received Maalox w/
   subsequent vomitting x1 and nausea resolved.
   History obtained from Patient
   Allergies:
   History obtained from PatientDemerol (Injection) (Meperidine Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2162-12-3**] 04:00 PM
   Nafcillin - [**2162-12-4**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:  Of note, the pt states she
   works putting together electronics with various apoxy chemicals. Her
   job was recently fined for non-compiance with OSHA standards. This
   resulted in a new ventilation system being installed in her work area.
   She has never, however, worn a mask at work.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, Nausea, Emesis
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2162-12-4**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 81 (67 - 91) bpm
   BP: 127/92(99) {113/53(79) - 151/92(102)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,430 mL
                                                                    600 mL
   PO:
                                                                    200 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  1,230 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,080 mL
                                                                    590 mL
   Urine:
                                                                  1,080 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    350 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   303 K/uL
   12.8 g/dL
   94 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.6 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   35.8 %
   11.2 K/uL
        [image002.jpg]
                            [**2162-12-2**]  10:46 AM
                            [**2162-12-2**]  09:13 PM
                            [**2162-12-3**]  06:03 AM
                             [**2162-12-4**]  03:14 AM
   WBC
   5.5
   11.2
   Hct
   34.9
   34.0
   37.1
   35.8
   Plt
   356
   303
   Cr
   0.9
   0.9
   Glucose
   77
   94
   Other labs: PT / PTT / INR:13.7/26.8/1.2, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 .H/O ASPERGILLUS INFECTION, NON- OR SEMI-INVASIVE
 HEMOPTYSIS
   This is a 47 yo female with hx of treated aspergillosis [**2158**] who
   presents now with hemoptysis.
   .
   # Hemoptysis: Source almost certainly pulmonary based on CT findings.
   Pt w/ hx of aspergillosis with unknown risk factors. Cavitary lesion on
   CT scan may be consistent with recurrence of aspergillosis, also w/
   bronchiectasis.
   - Sputum cxs, including AFB- 3 obtained. 1 is neg for AFB. Others still
   pending
   - f/u beta-glucan, galactomannan
   - No need for bronchoscopy at this time
   - HIV neg
   - PPD placed in ED, read today
   - TB precautions pending sputum for AFB
   - Cont nafcillin for MSSA
   .
   # Coagulopathy:  Very mildly elevated INR to 1.3.  No history of easy
   bleeding/bruising.  No known h/o liver dz. ? nutritional.  LFTs largely
   normal.
   - continue to monitor coags in settting of hemoptysis
   .
   # GERD:  Continue PPI (pantoprazole while in house, prevacid as
   outpatient).
   .
   # FEN: regular
   # Access: PIV
   # PPx: [**Last Name (LF) 2220**], [**First Name3 (LF) 124**] continue outpatient PPI.
   # Code:  FULL.
   # Dispo: Likely to floor today.
   # Comm: Boyfriend [**Name (NI) **] [**Name (NI) 2221**] [**Telephone/Fax (1) 2222**], [**Telephone/Fax (1) 2223**]; Dr. [**Last Name (STitle) 2219**]
   [**Telephone/Fax (1) 2224**]
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2162-12-3**] 08:19 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor